data/oMe_Silver.jsonl
{"reaction_id": "NR-131_1-C(F)(F)F_2-C(C)C_3-c1cnccc1_4-c1ccc(C(F)(F)F)cc1","level": "medium","name": "Lemieux-Johnson Oxidation","reactants_smiles": ["C(C(F)(F)F)(C(C)C)=C(c1cnccc1)(c1ccc(C(F)(F)F)cc1)"],"products_smiles": ["C(C(F)(F)F)(C(C)C)=O","C(c1cnccc1)(c1ccc(C(F)(F)F)cc1)=O"],"conditions": "O=[Os](=O)(=O)=O, [Na+].[O-][I+3](=O)=O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(F)(F)F)(C(C)C)O[Os](=O)(=O)OC1(c1cnccc1)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "The electron-rich alkene π-bond reacts with electrophilic OsO4 in a concerted [3+2] cycloaddition, favored by strong osmium–oxygen electrophilicity and minimal steric hindrance, forming a stable cyclic osmate ester."},{"step": 2,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(O)(C(F)(F)F)(C(C)C)C(O)(c1cnccc1)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Hydrolysis of the osmate ester occurs because osmium–oxygen bonds are labile in aqueous conditions, producing a vicinal diol stabilized by hydrogen bonding and relief of ring strain."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(C(F)(F)F)(C(C)C)O[I](=O)(=O)(O)OC1(c1cnccc1)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Periodate acts as an electrophile toward the diol, forming a cyclic periodate ester driven by favorable overlap of oxygen lone pairs with iodine’s empty orbitals and the release of water."},{"step": 4,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(C(F)(F)F)(C(C)C)=O.C(c1cnccc1)(c1ccc(C(F)(F)F)cc1)=O","step_weight": 0,"rationale": "The cyclic periodate ester undergoes C–C bond cleavage via cycloreversion, favored by the formation of two stable carbonyl groups and relief of ring strain in the intermediate."}],"description": "The alkene undergoes osmium tetroxide-mediated syn-dihydroxylation via a [3+2] cycloaddition, followed by oxidative cleavage with periodate. The cyclic osmate ester and periodate ester intermediates facilitate C–C bond cleavage, yielding two carbonyl compounds under mild oxidative conditions."}
{"reaction_id": "NR-204_2-CCCC_3-C(C)C","level": "hard","name": "Nenitzescu Indole Synthesis","reactants_smiles": ["O=C1C=CC(=O)C=C1","C=C(N([H])CCCC)C(=O)OC(C)C"],"products_smiles": ["C1=C(O)C=CC2=C1C(C(=O)C(C)C)=CN(CCCC)2"],"conditions": "Acetic acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC(C1C(C(C2=CC=CC=C2)=[NH+](CCCC))C(=O)O(C(C)C))=O)O","step_weight": 0,"rationale": "The β-aminocrotonate enamine acts as a nucleophile, attacking the electrophilic β-carbon of 1,4-benzoquinone due to strong conjugation and electron withdrawal by the carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC(C1C(=C(C2=CC=CC=C2)[NH](CCCC))C(=O)O(C(C)C))=O)O","step_weight": 0,"rationale": "Proton transfer stabilizes the adduct by neutralizing charge and preparing the intermediate for intramolecular cyclization under acidic conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(CCCC))C(=O)O(C(C)C))O)O","step_weight": 0,"rationale": "The amine nitrogen attacks the carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by conjugation and acid activation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(CCCC))C(=O)O(C(C)C))[OH2+])O","step_weight": 0,"rationale": "Protonation of the hydroxyl group creates a good leaving group, facilitating subsequent elimination to form the indole ring system."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)[N+]=3(CCCC))C(=O)O(C(C)C)))O","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is an excellent leaving group, driving formation of the iminium intermediate and partial ring aromatization."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1=C(C=CC3(=C1C(=C(C2=CC=CC=C2)N3(CCCC))C(=O)O(C(C)C)))O","step_weight": 0,"rationale": "Deprotonation restores full aromaticity of the indole core, a thermodynamically favorable step that completes the synthesis."}],"description": "Under acidic conditions, the β-aminocrotonate undergoes Michael addition to 1,4-benzoquinone, forming a conjugated adduct. Subsequent intramolecular nucleophilic attack and proton transfers enable cyclization to the indole core, followed by elimination steps to restore aromaticity and yield the 5-hydroxyindole product."}
